US04843079
10-amino-3,4-dihydro-7-methyl-1H-thiopyrano[4,3-b]quinoline
A mixture of 4-methylanthranilonitrile (4.46 g) and freshly fused zinc (6.8 g) in 20 ml of nitrobenzene was heated at 50° C. for 1 hour. To this was added tetrahydrothiopyran-4-one (5.1 g) and the mixture was heated to 130° C. for 1.5 hours. After cooling, the zinc complex was filtered, rinsed with ethyl ether and partitioned between 2-butanone (MEK) and NH4OH. The aqueous phase was extracted with MEK and the organics were washed with water and dried (saturated NaCl, MgSO4). This was concentrated to give 4.76 g of an off-white powder, m.p. 239°-245° C. d., which was recrystallized from ethyl acetate to give 2.95 g of an off-white powder, m.p. 243°-246° C. d.

reactant | 4-methylanthranilonitrile | 4.46 g | CC=1C=C(C(C#N)=CC1)N | C8H8N2
reactant | tetrahydrothiopyran-4-one | 5.1 g | S1CCC(CC1)=O | C5H8OS
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 10-amino-3,4-dihydro-7-methyl-1H-thiopyrano[4,3-b]quinoline | 4.76 g | NC1=C2C(=NC=3C=C(C=CC13)C)CCSC2 | C13H14N2S
